US04507498
A mixture of 2.13 g (0.0044 mole) of 4-[4-acetyl-3-[3-(3-bromopropoxy)propoxy]-2-propylphenoxy]butanoic acid ethyl ester, 0.85 g (0.0044 mole) of 1-(2,4-dihydroxy-3-propylphenyl)ethanone and 1.2 g (0.0087 mole) of potassium carbonate in 40 ml of anhydrous acetone and 20 ml of anhydrous dimethylformamide was stirred at reflux for 20 hours. The solvents were removed in vacuo and the residue was purified by HPLC using 35% ethyl acetate-hexane to give 2.15 g (82% yield) of [4-acetyl-3-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 4-[4-acetyl-3-[3-(3-bromopropoxy)propoxy]-2-propylphenoxy]butanoic acid ethyl ester | 0.0044 mole, 2.13 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCOCCCBr)CCC)=O | C23H35BrO6
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.0044 mole, 0.85 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 0.0087 mole, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.15 g, 82% yield | C(C)OC(C(CC)OC1=C(C(=C(C=C1)C(C)=O)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C34H48O9
